US06096689
Step 2: 3-(2,4-Dichloro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole
28.8 g (720 mmol) of sodium hydroxide dissolved in 240 ml of water were added to a solution of 37 g (144 mmol) of 5-(2,4-dichloro-5-methylphenyl)-1,2-dihydro-2-methyl-3H-pyrazol-3-one in 390 ml of dioxane. Chlorodifluoromethane was subsequently passed in at 60-65° C. in the course of 4 hours, whereupon the reaction solution was stirred into 1 l of water. It was then extracted using methyl tert-butyl ether. The organic phase was dried over magnesium sulfate, filtered and then concentrated. The crude product was purified by means of column chromatography on silica gel (eluent: diethyl ether). Yield: 35.1 g.

reactant | sodium hydroxide | 720 mmol, 28.8 g | [OH-].[Na+]
reactant | 5-(2,4-dichloro-5-methylphenyl)-1,2-dihydro-2-methyl-3H-pyrazol-3-one | 144 mmol, 37 g | ClC1=C(C=C(C(=C1)Cl)C)C1=CC(N(N1)C)=O | C11H10Cl2N2O
reactant | Chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 240 ml | O | H2O
solvent | dioxane | 390 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 l | O | H2O
product | 3-(2,4-Dichloro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC1=C(C=C(C(=C1)Cl)C)C1=NN(C(=C1)OC(F)F)C | C12H10Cl2F2N2O
